US09163021B2
(2-Aminopyridin-4-yl)-(1-(oxetan-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone
Isopropyl magnesium chloride (8.16 mL, 1.28 mmol, 2M in diethyl ether) was added to 3-iodo-1-(oxetan-3-yl)-1H-pyrrolo[3,2-c]pyridine (Preparation 53, 4.45 g, 14.8 mmol) in THF (90 mL) at 0° C., under nitrogen. The mixture was stirred at 0° C. for 1 hour then a solution of 2-[(diphenylmethylene)amino]-N-methoxy-N-methylisonicotinamide (Preparation 51, 5.12 g, 14.8 mmol) in THF (30 mL) was added dropwise at 0° C. The mixture was warmed to room temperature and stirred at this temperature for 16 hours. The reaction mixture was quenched with water (200 mL) and extracted with DCM/MeOH 95:5 (7×100 mL). The combined organic extracts were washed with brine, dried over magnesium sulphate and evaporated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-5% MeOH in DCM followed by a second purification by silica gel column chromatography eluting with 30-50% EtOAc in DCM. The residue was dissolved in THF (90 mL) and 0.5M HCl (90 mL) was added followed by stirring at room temperature for 30 minutes. The reaction was quenched by the addition of 1N NaOH to pH 6-7 and the mixture eluted through an SCX cartridge washing through with MeOH followed by ammonia in MeOH (300 mL, 2M solution). The filtrate was concentrated in vacuo, azeotroping with toluene. The residue was dissolved in DCM:MeOH 90:10 (20 mL) and poured into diethyl ether (1000 mL) to precipitate a white solid. After filtering the white solid was dried to afford the title compound.

reactant | Isopropyl magnesium chloride | 1.28 mmol, 2M, 8.16 mL | C(C)(C)[Mg]Cl
reactant | 3-iodo-1-(oxetan-3-yl)-1H-pyrrolo[3,2-c]pyridine | 14.8 mmol, 4.45 g | IC1=CN(C2=C1C=NC=C2)C2COC2 | C10H9IN2O
reactant | 2-[(diphenylmethylene)amino]-N-methoxy-N-methylisonicotinamide | 14.8 mmol, 5.12 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC=1C=C(C(=O)N(C)OC)C=CN1 | C21H19N3O2
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2-Aminopyridin-4-yl)-(1-(oxetan-3-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl)methanone | NC1=NC=CC(=C1)C(=O)C1=CN(C2=C1C=NC=C2)C2COC2 | C16H14N4O2
